US06011053
Step A: (1,3,5-trimethyl-pyrazol-4-yl)-isothiocyanate
A mixture of 4-amino-1,3,5-trimethylpyrazole (1.32 g, 10.6 mmol) in 50 mL each of CHCl3 and saturated aqueous NaHCO3 was treated dropwise with thiophosgene (0.812 mL, 10.6 mmol) and stirred vigorously for 20 minutes. The layers were separated and the organic phase was washed with brine. After drying (Na2SO4), the solvent was evaporated in vacuo to provide the title compound (1.8 g, brown oil) suitable for use directly in the next step.

reactant | 4-amino-1,3,5-trimethylpyrazole | 10.6 mmol, 1.32 g | NC=1C(=NN(C1C)C)C | C6H11N3
reactant | thiophosgene | 10.6 mmol, 0.812 mL | C(=S)(Cl)Cl | CCl2S
solvent | CHCl3 | 50 mL | C(Cl)(Cl)Cl | CHCl3
solvent | NaHCO3 | C(=O)(O)[O-].[Na+]
product | (1,3,5-trimethyl-pyrazol-4-yl)-isothiocyanate | 1.8 g | CN1N=C(C(=C1C)N=C=S)C | C7H9N3S
